US06835731B2
Preparation of {4-[(5,6,7,8-Tetrahydro-quinolin-7-ylamino)-methyl]-benzyl}-carbamic Acid Tert-butyl Ester:
Using general procedure B: Reaction of (4-Formyl-benzyl)-carbamic acid tert-butyl ester (356 mg, 1.51 mmol), 5,6,7,8-Tetrahydro-quinolin-7-ylamine (224 mg, 1.51 mmol) in anhydrous MeOH (5 mL) at room temperature overnight under N2 and 2 min of stirring after addition of sodium borohydride (115 mg, 3.00 mmol), followed by purification of crude material using chromatography on silica gel (2:2:96 CH3OH—NH3 H2O—CH2Cl2) afforded the title compound (556 mg, 100%) as a white foam.

reactant | (4-Formyl-benzyl)-carbamic acid tert-butyl ester | 1.51 mmol, 356 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C=O)=O | C13H17NO3
reactant | 5,6,7,8-Tetrahydro-quinolin-7-ylamine | 1.51 mmol, 224 mg | N1=CC=CC=2CCC(CC12)N | C9H12N2
reactant | sodium borohydride | 3.00 mmol, 115 mg | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | {4-[(5,6,7,8-Tetrahydro-quinolin-7-ylamino)-methyl]-benzyl}-carbamic Acid Tert-butyl Ester | 556 mg, 100% | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CNC1CCC=2C=CC=NC2C1)=O | C22H29N3O2
